US04663353
3,5-Dinitroaniline, 10.0 g (0.055 mole), is dissolved in 200 ml dichloroethane, containing 25 ml pyridine. The solution is stirred at room temperature while nonanoyl chloride, 10.3 g (0.058 mole), is added slowly. The solution is stirred for 2 hours. Excess pyridine is removed by washing the product with 4N hydrochloric acid. The product is obtained by crystallization at -20° C. and recrystallized from 95% ethanol. There is obtained N-(3,5-Dinitrophenyl) nonanamide (M.P. 72.5°-73.0° C.). Analysis shows 12.69% nitrogen as against a calculated value of 12.61% for C15H21N3O5.

reactant | 3,5-Dinitroaniline | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | nonanoyl chloride | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
product | N-(3,5-Dinitrophenyl) nonanamide | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])NC(CCCCCCCC)=O | C15H21N3O5
